US04518597
6-[4-(3,4-Dimethoxy-phenylmercapto)-butoxy]-7-nitro-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 210 from 6-(4-methanesulfonyloxy-butoxy)-7-nitro-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 3,4-dimethoxy-thiophenol.

reactant | 6-(4-methanesulfonyloxy-butoxy)-7-nitro-4,4-dimethyl-4H-3,1-benzoxazin-2-one | CS(=O)(=O)OCCCCOC=1C(=CC2=C(C(OC(N2)=O)(C)C)C1)[N+](=O)[O-] | C15H20N2O8S
reactant | 3,4-dimethoxy-thiophenol | COC=1C=C(C=CC1OC)S | C8H10O2S
product | 6-[4-(3,4-Dimethoxy-phenylmercapto)-butoxy]-7-nitro-4,4-dimethyl-4H-3,1-benzoxazin-2-one | COC=1C=C(C=CC1OC)SCCCCOC=1C(=CC2=C(C(OC(N2)=O)(C)C)C1)[N+](=O)[O-] | C22H26N2O7S
